* C:\Users\HP\Desktop\Files\UROP S2022\transimpedance_amp.asc
R1 N002 N004 1k
R2 N004 N003 1k
R3 N003 N005 10k
XU1 N006 N002 N001 0 N004 AD8608
XU2 N006 N003 N001 0 N005 AD8608
V1 N001 0 5V
V2 N006 0 1.8V
I1 0 N002 100µA
C1 N002 0 100mF
C2 N003 0 100mF
C3 N004 NC_01 100pF
C4 N005 NC_02 100pF
.tran 0 2 0 .05
.lib ADI.lib
.backanno
.end
